US07468367B2
Description 2: N-(6,7-Difluoro-quinoxalin-2-yl)-N′-methyl-ethane-1,2-diamine. dihydrochloride
An ice-cooled solution of [2-(6,7-difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester, D1 (500 mg, 1.48 mmol) in methanol (20 ml) was treated with HCl in dioxane (4M solution, 4 ml). After stirring under argon at room temperature for 4 h the volatiles were removed in vacuo and the residue was triturated with diethyl ether to afford the title compound as a beige powder (100%).

reactant | [2-(6,7-difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester | CC(C)(C)OC(N(C)CCNC1=NC2=CC(=C(C=C2N=C1)F)F)=O | C16H20F2N4O2
reactant | HCl | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxane | 4M, 4 ml | O1CCOCC1 | C4H8O2
product | N-(6,7-Difluoro-quinoxalin-2-yl)-N′-methyl-ethane-1,2-diamine. dihydrochloride | 100% | Cl.Cl.FC=1C=C2N=CC(=NC2=CC1F)NCCNC | InChI=1S/C11H12F2N4.2ClH/c1-14-2-3-15-11-6-16-9-4-7(12)8(13)5-10(9)17-11;;/h4-6,14H,2-3H2,1H3,(H,15,17);2*1H
